US03993701
α-Naphthol is methylated using methanol to form 2-methyl-1-naphthol over a catalyst bed of alumina. The reaction provides high selectivity to 2-methyl-1-naphthol. Alumina catalysts derived from alumina alkoxide hydrolysis are preferred.

reactant | α-Naphthol | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | methanol | CO | CH4O
product | 2-methyl-1-naphthol | CC1=C(C2=CC=CC=C2C=C1)O | C11H10O
